US05166188
(E)-4-(4-(1,4-Dihydro-4-oxo-1-pyridyl)phenyl)-3-butenoic acid
4.0 g of 4-(1,4-dihydro-4-oxo-1-pyridyl)benzaldehyde and 8.2 g of β-carboxyethyltriphenylphosphonium chloride were suspended in 40 ml of tetrahydrofuran in a nitrogen atmosphere. The obtained suspension was cooled to -5° C., followed by the gradual addition of a solution of 4.96 g of potassium tertbutoxide in 30 ml of tetrahydrofuran. The temperature of the mixture was gradually raised to a room temperature. The resulting mixture was stirred for 14 hours, followed by the addition of ice-water. The obtained aqueous phase was washed with chloroform. The pH of the aqueous phase was adjusted with concentrated hydrochloric acid to about 3 to precipitate a crystal. This crystal was recovered by filtration and washed with water and methanol successively to obtain 3.48 g of the title compound as a pale yellow powder (yield: 68%).

reactant | 4-(1,4-dihydro-4-oxo-1-pyridyl)benzaldehyde | 4.0 g | O=C1C=CN(C=C1)C1=CC=C(C=O)C=C1 | C12H9NO2
reactant | β-carboxyethyltriphenylphosphonium chloride | 8.2 g | [Cl-].C(=O)(O)CC[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
reactant | potassium tertbutoxide | 4.96 g | CC(C)([O-])C.[K+]
solvent | tetrahydrofuran | 40 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
product | (E)-4-(4-(1,4-Dihydro-4-oxo-1-pyridyl)phenyl)-3-butenoic acid | 3.48 g, yield: 68% | O=C1C=CN(C=C1)C1=CC=C(C=C1)/C=C/CC(=O)O | C15H13NO3
